US08609647B2
(1) Piperidine-1,3-dicarboxylic acid 3-((E)-but-2-enyl)ester 1-tert-butyl ester
To a solution of 1-(tert-butoxycarbonyl)-3-piperidine carboxylic acid (50.0 g) and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (45.8 g) in chloroform (500 ml) was added 4-dimethylaminopyridine (29.3 g), and the mixture was stirred for 50 minutes. To the mixture was added (E)-but-2-en-1-ol (22.1 ml), and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added 10% aqueous potassium bisulfate solution (500 ml), and the mixture was extracted with chloroform. The separated organic layer was sequentially washed with saturated aqueous sodium bicarbonate solution (400 ml) and saturated aqueous sodium chloride solution (350 ml). The separated aqueous layer was extracted with chloroform (300 ml) again. The combined organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=7/1) to give the titled compound (57.1 g).

reactant | 1-(tert-butoxycarbonyl)-3-piperidine carboxylic acid | 50.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 45.8 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | (E)-but-2-en-1-ol | 22.1 ml | C(\C=C\C)O | C4H8O
reactant | potassium bisulfate | 500 ml | S([O-])(O)(=O)=O.[K+]
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 29.3 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Piperidine-1,3-dicarboxylic acid 3-((E)-but-2-enyl)ester 1-tert-butyl ester | 57.1 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)OC\C=C\C | C15H25NO4
